US04153711
f. 2-n-butyl-1,4-dihydropyrrolo[3,4-b]indol-3(2H)-one.
1-n-Butyl-4-carbomethoxy-2,3-dioxopyrrolidine, 107 g., [Southwick and Owellen, J. Org. Chem. 25(1960)1133]is heated to boiling in a mixture of 600 ml. of a twenty percent aqueous hydrochloric acid solution and about 100 ml. of ninty-five percent ethanol. Solids dissolved in about ten minutes to give a yellow solution. After one hour of heating, the flask is cooled to about room temperature. Sodium acetate is then added to neutralize the reaction mixture to a pH of 4-5. In addition about 500 ml. of water is added during the neutralization to insure that most materials will remain in solution. Phenylhydrazine, 54 g., is then washed into the stirred mixture with methanol, 20 ml. The phenyl hydrazone starts to separate immediately, and is collected after 10 minutes of cooling and stirring. The material is dissolved in 200 ml. of acetic acid at 65° and treated with 100 ml. of concentrated hydrochloric acid. A strong exotherm takes the temperature up to about 110° which causes vigorous refluxing. Filtration of the cooled slurry yields 78 g. of the title compound, m.p. 215°-218° sinters at 210°. Dilution of the filtrate with water gives additional product, 7 g., m.p. after recrystallization from methanol: 216°-218°.

reactant | 1-n-Butyl-4-carbomethoxy-2,3-dioxopyrrolidine | C(CCC)N1C(C(C(C1)C(=O)OC)=O)=O | C10H15NO4
reactant | hydrochloric acid | Cl | ClH
reactant | Sodium acetate | C(C)(=O)[O-].[Na+]
reactant | Phenylhydrazine | C1(=CC=CC=C1)NN | C6H8N2
solvent | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 2-n-butyl-1,4-dihydropyrrolo[3,4-b]indol-3(2H)-one | C(CCC)N1C(C=2NC=3C=CC=CC3C2C1)=O | C14H16N2O
